US08859561B2
To a solution of 2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine (120 mg, 0.565 mmol) in DMF (1 mL) was added a suspension of NaH (68.0 mg, 1.69 mmol) in DMF (1 mL). After stiffing for 5 min at RT, a solution of 2-chloro-1-(piperidin-1-yl)ethanone (272 mg, 1.69 mmol) in DMF (1 mL) was added dropwise into the reaction mixture and stirring continued for another 3 h. The progress of reaction was monitored by TLC and NMR. The reaction mixture was diluted with ice-water (20 mL) and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel flash chromatography (10% MeOH-DCM) to yield 1-(piperidin-1-yl)-2-(2,3,5,6-tetrahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizin-7(11cH)-yl)ethanone;

reactant | 2,3,5,6,7,11c-hexahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizine | 0.565 mmol, 120 mg | C1CCN2CCC3=C(C12)C1=C(N3)N=CC=C1 | C13H15N3
reactant | NaH | 1.69 mmol, 68.0 mg | [H-].[Na+]
reactant | 2-chloro-1-(piperidin-1-yl)ethanone | 1.69 mmol, 272 mg | ClCC(=O)N1CCCCC1 | C7H12ClNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(piperidin-1-yl)-2-(2,3,5,6-tetrahydro-1H-pyrido[3′,2′:4,5]pyrrolo[2,3-g]indolizin-7(11cH)-yl)ethanone | N1(CCCCC1)C(CN1C2=C(C3=C1CCN1CCCC31)C=CC=N2)=O | C20H26N4O
